US07495103B2
To a solution of 4-tert-butyl-2-chloro-5-nitro-phenol (12.6 g, 54.9 mmol) in MeOH (50 mL) was added Ni (1.2 g). The reaction was shaken under H2 (1 atm) for 4 h. The reaction mixture was filtered and the filtrate was concentrated. The residue was purified by column chromatography (P.E./EtOAc, 20:1) to give 4-tert-butyl-2-chloro-5-amino-phenol (C-11) (8.5 g, 78%). 1H NMR (DMSO-d6) δ 9.33 (s, 1H), 6.80 (s, 1H), 6.22 (s, 1H), 4.76 (s, 1H), 1.23 (s, 9H); ESI-MS 200.1 m/z (MH+).

reactant | 4-tert-butyl-2-chloro-5-nitro-phenol | 54.9 mmol, 12.6 g | C(C)(C)(C)C1=CC(=C(C=C1[N+](=O)[O-])O)Cl | C10H12ClNO3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Ni | 1.2 g | [Ni] | Ni
product | 4-tert-butyl-2-chloro-5-amino-phenol | 8.5 g, 78% | C(C)(C)(C)C1=CC(=C(C=C1N)O)Cl | C10H14ClNO
